US05750717
(A) (RS)-3-Phthalimido-4-phenyl-1-butene
(RS)-3-Amino-4-phenyl-1-butene (1.2 g, 8.0 mmol) was dissolved in tetrahydrofuran (20 ml). To the solution, a solution of N-carbethoxyphthalimido (2.2 g, 10.0 mmol) in water (20 ml) and anhydrous sodium carbonate (1.06 g, 10.0 mmol) was added and stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure to remove tetrahydrofuran, followed by extraction with ethyl acetate.

reactant | (RS)-3-Amino-4-phenyl-1-butene | 8.0 mmol, 1.2 g | NC(C=C)CC1=CC=CC=C1 | C10H13N
reactant | sodium carbonate | 10.0 mmol, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (RS)-3-Phthalimido-4-phenyl-1-butene | C1(C=2C(C(N1C(C=C)CC1=CC=CC=C1)=O)=CC=CC2)=O | C18H15NO2
